US05512581
A mixture of 3,4-dihydro-6-(2-quinolylmethoxy)-1(2H)-naphthalenone (1.82 g, 6 mmol), prepared as in step 2, and sodium borohydride (230 mg, 6 mmol) in ethanol (15 mL) was refluxed for 30 minutes. The reaction was allowed to warm to ambient temperature and was then quenched with saturated NH4Cl. Extraction with ethyl acetate and purification on a silica gel column eluting with 9:1 CH2Cl2 -ethyl acetate afforded 1.79 g of 1,2,3,4-tetrahydro-6-(2-quinolylmethoxy)-1-naphthalenol.

reactant | 3,4-dihydro-6-(2-quinolylmethoxy)-1(2H)-naphthalenone | 6 mmol, 1.82 g | N1=C(C=CC2=CC=CC=C12)COC=1C=C2CCCC(C2=CC1)=O | C20H17NO2
reactant | sodium borohydride | 6 mmol, 230 mg | [BH4-].[Na+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 1,2,3,4-tetrahydro-6-(2-quinolylmethoxy)-1-naphthalenol | 1.79 g | N1=C(C=CC2=CC=CC=C12)COC=1C=C2CCCC(C2=CC1)O | C20H19NO2
